US08420655B2
5-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-phenyl}-3H-[1,3,4]oxadiazol-2-one
To a sealed vial is added 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3H-[1,3,4]oxadiazol-2-one (40 mg, 0.097 mmol) in DMF (3 mL), followed by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (25 mg, 0.113 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (8 mg, 0.011 mmol) and 2M aq. Na2CO3 (0.2 ml, 0.4 mmol). The reaction mixture is heated under Argon at 100° C. for 6 hours. The residue is diluted with EtOAc (20 mL), washed with brine, dried under anhydrous Na2SO4, filtered and concentrated. The residue is purified by silica gel flash column chromatography with 0-10% 7M NH3 in MeOH/CH2Cl2 as the eluent to afford the title compound (4 mg, 10%) as a pale-white solid. LCMS (ESMS): m/z 428.87 (M++1).

reactant | 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3H-[1,3,4]oxadiazol-2-one | 0.097 mmol, 40 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC(O2)=O)C(C)(C)C)C=C1 | C19H17BrN4O2
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.113 mmol, 25 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.4 mmol, 2M, 0.2 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.011 mmol, 8 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 5-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-phenyl}-3H-[1,3,4]oxadiazol-2-one | 4 mg, 10% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC(O2)=O)C(C)(C)C)C=C1 | C23H21N7O2
